US05281595
n-Butyllithium (18.6 ml of a 2.5M solution in hexane, 46.5 mmol) and N,N,N',N'-tetramethylethylenediamine (5.38 g, 46.3 mmol), respectively, were added (using a syringe) to a stirred solution of 5-(1-ethoxyethoxy)-1,3-benzodioxole (8.9 g, 42.4 mmol) in dry THF (100 ml) in a nitrogen atmosphere at -78° C. The resulting solution was allowed to attain room temperature and then cooled to -78° C. A solution of N,N-dimethylformamide (3.70 g, 50.6 mmol) in dry THF (20 ml) was added using a syringe, and the reaction mixture was allowed to attain room temperature. The resulting mixture was quenched with water and extracted with diethyl ether (3times). The combined ether layers were washed with water (2 times), dried over Na2SO4, filtered and evaporated in vacuo to to yield 5-(1-ethoxyethoxy)-4-formyl-1,3-benzodioxole (9.7 g, 96% yield; compound No. 2) as a pale yellow solid, m.p. 48°- 50° C.

reactant | n-Butyllithium | C(CCC)[Li]
reactant | N,N,N',N'-tetramethylethylenediamine | 46.3 mmol, 5.38 g | CN(CCN(C)C)C | C6H16N2
reactant | 5-(1-ethoxyethoxy)-1,3-benzodioxole | 42.4 mmol, 8.9 g | C(C)OC(C)OC1=CC2=C(OCO2)C=C1 | C11H14O4
reactant | N,N-dimethylformamide | 50.6 mmol, 3.70 g | CN(C=O)C | C3H7NO
solvent | hexane | CCCCCC | C6H14
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 5-(1-ethoxyethoxy)-4-formyl-1,3-benzodioxole | 9.7 g, 96% yield | C(C)OC(C)OC1=C(C2=C(OCO2)C=C1)C=O | C12H14O5
